US06977264B2
Step (b) 2-(4-Pyridyl)phenylamine
To a 500 mL round-bottomed flask was added a solution of 4-(2-nitrophenyl)-pyridine (Step a) (7.1 g, 36 mmol) in MeOH (300 mL). The solution was treated dropwise with concd HCl (6.7 mL, 84 mmol) and purged with N2. Pd/C (10%, Aldrich) (2.5 g) was added, H2 was introduced and the suspension was magnetically stirred under atmospheric H2 pressure for 15 h at 25° C. The suspension was purged with N2, filtered through Celite® (Aldrich) (25 g) and the filter cake was washed with MeOH (400 mL). The filtrate was concentrated in vacuo to a yellow powder which was partitioned between EtOAc (200 mL) and 1 N NaOH (100 mL). The organic layer was washed with water (100 mL), satd NaCl (50 mL), dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound as a viscous yellow oil which solidified upon standing (6.0 g). MP 81-83° C. MS (ESI, pos. ion) m/z: 171 (M+1); (ESI, neg. ion) m/z: 169 (M−1). Calc'd for C11H10N2: 170.21.

reactant | 4-(2-nitrophenyl)-pyridine | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=NC=C1 | C11H8N2O2
reactant | HCl | 84 mmol, 6.7 mL | Cl | ClH
solvent | MeOH | 300 mL | CO | CH4O
product | 2-(4-Pyridyl)phenylamine | N1=CC=C(C=C1)C1=C(C=CC=C1)N | C11H10N2
